US08283354B2
(R)-1-(4-(6-Bromo-2-(2-hydroxyphenyl)quinazolin-4-yl)piperazin-1-yl)-2-hydroxy-4-methylpentan-1-one (188 mg, 0.38 mmol), Zn(CN)2 (44 mg, 0.38 mmol), and Pd(Ph3)4 (6.5 mg, 0.0112 mmol) were dissolved in DMF (4 mL) and the reaction mixture was heated in a microwave synthesizer at 200° C. for 15 minutes EtOAc (50 mL) was added and the mixture was washed twice with H2O. The organic layer was dried over Na2SO4, filtered, and concentrated. Purification via silica gel chromatography using 0-40% EtOAc in CH2Cl2:hexanes (1:1) gave 4-[4-((R)-2-hydroxy-4-methyl-pentanoyl)-piperazin-1-yl]-2-(2-hydroxy-phenyl)-quinazoline-6-carbonitrile (127 mg, 75%). LC/MS: m/z 446 (M+H)+ at 3.24 min (10%-99% CH3CN (0.035% TFA)/H2O (0.05% TFA)). 1H NMR (400 MHz, DMSO-d6) δ 8.60 (d, J=1.5 Hz, 1H), 8.46 (dd, J=8.4, 1.8 Hz, 1H), 8.15 (dd, J=8.7, 1.7 Hz, 1H), 8.00 (d, J=8.7 Hz, 1H), 7.45-7.41 (m, 1H), 6.99-6.95 (m, 2H), 4.94 (d, J=7.0 Hz, 1H), 4.39-4.36 (m, 1H), 4.14-4.04 (m, 4H), 3.89-3.67 (m, 4H), 1.82-1.76 (m, 1H), 1.47-1.37 (m, 2H), 0.93-0.91 (m, 6H).

reactant | (R)-1-(4-(6-Bromo-2-(2-hydroxyphenyl)quinazolin-4-yl)piperazin-1-yl)-2-hydroxy-4-methylpentan-1-one | 0.38 mmol, 188 mg | BrC=1C=C2C(=NC(=NC2=CC1)C1=C(C=CC=C1)O)N1CCN(CC1)C([C@@H](CC(C)C)O)=O | C24H27BrN4O3
reactant | EtOAc | 50 mL | CCOC(=O)C | C4H8O2
reactant | DMF | 4 mL | CN(C)C=O | C3H7NO
catalyst | Zn(CN)2 | 0.38 mmol, 44 mg | [C-]#N.[C-]#N.[Zn+2]
product | 4-[4-((R)-2-hydroxy-4-methyl-pentanoyl)-piperazin-1-yl]-2-(2-hydroxy-phenyl)-quinazoline-6-carbonitrile | 127 mg, 75% | O[C@@H](C(=O)N1CCN(CC1)C1=NC(=NC2=CC=C(C=C12)C#N)C1=C(C=CC=C1)O)CC(C)C | C25H27N5O3
